US06479536B1
3-(4-Isopropylphenyl)-1′,4,6,7-tetramethylspiro[benzofuran-2(3H),4′-piperidine]
To a suspension of 3-(4-isopropylphenyl)-4,6,7-trimethylspiro[benzofuran-2(3H),4′-piperidine] hydrochloride (389.6 mg, 1.01 mmol) in acetonitrile (5 ml) was added 37% formalin (2.0 ml) and the mixture was cooled to 0° C. Sodium cyanoborohydride (101.8 mg, 1.62 mmol) was added into this mixture and the mixture was stirred at room temperature for 1 hour. The reaction mixture was concentrated under reduced pressure and an aqueous saturated solution of sodium hydrogen carbonate was added to the residue. The product was extracted twice with ethyl acetate. The combined extracts were washed with water, dried on magnesium sulfate, filtered, and then concentrated under reduced pressure. The residue was subjected to column chromatography (on Chromatorex NHDM1020 (trade name, manufactured by Fuji Silysia Chemical Ltd.); hexane-ethyl acetate 10:1) to obtain 145.0 mg (40% yield) of the title compound. Melting point: 63-64° C. (Petroleum ether).

reactant | 3-(4-isopropylphenyl)-4,6,7-trimethylspiro[benzofuran-2(3H),4′-piperidine] hydrochloride | 1.01 mmol, 389.6 mg | Cl.C(C)(C)C1=CC=C(C=C1)C1C2=C(OC13CCNCC3)C(=C(C=C2C)C)C
reactant | formalin | 2.0 ml | C=O | CH2O
reactant | Sodium cyanoborohydride | 1.62 mmol, 101.8 mg | C(#N)[BH3-].[Na+]
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 3-(4-Isopropylphenyl)-1′,4,6,7-tetramethylspiro[benzofuran-2(3H),4′-piperidine] | 145.0 mg, 40% yield | C(C)(C)C1=CC=C(C=C1)C1C2=C(OC13CCN(CC3)C)C(=C(C=C2C)C)C | C25H33NO
